US07838674B2
5,7-Dioxo-4-aza-spiro[2.5]octane-6-carboxylic acid methyl ester
N-[1-(2-Oxo-ethyl)-cyclopropyl]-malonamic acid ethyl ester (200 mg; 0.823 mmol) in toluene (3 ml) is added to a solution of sodium (18.9 mg; 0.823 mmol) in MeOH (1 ml). The reaction mixture is refluxed for 45 minutes, poured on water and washed with TBME. The aqueous phase is acidified with 2N HCl (0.2 ml) and evaporated to dryness to yield the title compound as yellow resin (162 mg; 100%). 1H-NMR (400 MHz; DMSO-d6): 8.39 (s, 1H); 3.73 (s, 3H); 3.18 (s, 1H); 2.48 (s, 2H); 0.76 (m, 2H); 0.64 (m, 2H). MS (m/z) ES+: 198 (MH+).

reactant | N-[1-(2-Oxo-ethyl)-cyclopropyl]-malonamic acid ethyl ester | 0.823 mmol, 200 mg | C(C)OC(CC(=O)NC1(CC1)CC=O)=O | C10H15NO4
reactant | sodium | 0.823 mmol, 18.9 mg | [Na] | Na
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 1 ml | CO | CH4O
product | 5,7-Dioxo-4-aza-spiro[2.5]octane-6-carboxylic acid methyl ester | COC(=O)C1C(NC2(CC2)CC1=O)=O | C9H11NO4
